US09403807B2
Step A: tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate
To a mixture of tert-butyl (1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-yl)carbamate (412 mg, 1 mmol), as described in Example 21 Step B, and K2CO3 (276 mg, 2 mmol) in methanol (10 mL) was added dimethyl 1-diazo-2-oxopropylphosphonate (230 mg, 1.2 mmol) at room temperature. The mixture was stirred for 2 h and the solid was filtered off and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography eluting with PE/EA (20/1 to 10/1, v/v) to give the title compound as colorless amorphous solid. LC/MS m/z=352.9[M-tBu+H]+.

reactant | tert-butyl (1-(2-(4-chlorophenyl)-1-oxobutan-2-yl)-1H-indol-4-yl)carbamate | 1 mmol, 412 mg | ClC1=CC=C(C=C1)C(C=O)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C23H25ClN2O3
reactant | K2CO3 | 2 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyl 1-diazo-2-oxopropylphosphonate | 1.2 mmol, 230 mg | [N+](=[N-])=C(C(C)=O)P(OC)(OC)=O | C5H9N2O4P
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl 1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-ylcarbamate | ClC1=CC=C(C=C1)C(C#C)(CC)N1C=CC2=C(C=CC=C12)NC(OC(C)(C)C)=O | C24H25ClN2O2
